**** Test netlist for  Foster N Port Model *****
*
* Test two-port coupled lines considered.
*

.ac start=10 stop=1e6 n_freqs=400

*vsource:vin 3 0 vac=1 f=1megaHz
vsource:vin 3 0 vac=1

r:source 3 1 r=50

FosterNPort:f1 1 2 0 filename = "two_port.yp" ports = 2

r:load 2 0 r=50.

.options gnuplot

.out plot term 1 vf mag in "v1.out"
.out plot term 2 vf mag in "v2.out"
.end
